US07517873B2
A solution of 8.72 g (0.10 mole) of isoamylamine, 12.01 g (0.12 mole) of methyl methacrylate and 50 mL of methanol was heated at reflux under an argon atmosphere for 22 hours. After cooling the mixture was concentrated, then distilled under vacuum to give 14.31 g of (rac)-2-methyl-3-(3-methyl-butylamino)-propanoic acid methyl ester as colorless oil. b.p. 73-75 degrees, 2 mm Hg.

reactant | isoamylamine | 0.10 mole, 8.72 g | C(CC(C)C)N | C5H13N
reactant | methyl methacrylate | 0.12 mole, 12.01 g | C(C(=C)C)(=O)OC | C5H8O2
solvent | methanol | 50 mL | CO | CH4O
product | (rac)-2-methyl-3-(3-methyl-butylamino)-propanoic acid methyl ester | 14.31 g | COC(C(CNCCC(C)C)C)=O | C10H21NO2
